US07816522B2
(36c) 2-(3,4-dimethoxyphenyl)-2-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylamino]thioacetimidic acid methyl ester
After adding 170 mg of Me3O+BF4− to a solution of 385 mg of 2-(3,4-dimethoxyphenyl)-2-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylamino]thioacetamide in 30 ml of dichloromethane under a nitrogen atmosphere, the mixture was stirred at room temperature for 18 hours. Next, 200 ml of ethyl acetate and 100 ml of a 5% aqueous sodium hydrogen carbonate solution were added to the reaction mixture. The organic layer was washed 100 ml of saturated brine and dried over anhydrous magnesium sulfate. The desiccating agent was filtered, and the filtrate was concentrated under reduced pressure to give the title compound (371 mg, crude product).

reactant | BF4− | F[B-](F)(F)F
reactant | 2-(3,4-dimethoxyphenyl)-2-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylamino]thioacetamide | 385 mg | COC=1C=C(C=CC1OC)C(C(=S)N)NC1=CC=C(C=C1)C1=NOC(=N1)C | C19H20N4O3S
reactant | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 2-(3,4-dimethoxyphenyl)-2-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylamino]thioacetimidic acid methyl ester | 371 mg | CSC(C(NC1=CC=C(C=C1)C1=NOC(=N1)C)C1=CC(=C(C=C1)OC)OC)=N | C20H22N4O3S
